US06342610B2
α-(2-benzo[b]thienyl)-3,4,5-trimethoxybenzyl alcohol was prepared in the same manner as described in Example 40A. Reaction of benzo[b]thiophene (7.5 mmoles, 1.0 g), t-BuLi (1.7 m, 9.7 mmoles, 5.7 mls) and 3,4,5-trimethoxybenzaldehyde (8.9 mmoles, 1.8 g) in THF (20 ml) yielded, after flash chromatography using 50% ethyl acetate/hexanes, 2.4 g (97%) of a yellow-white solid.

reactant | benzo[b]thiophene | 7.5 mmoles, 1.0 g | S1C2=C(C=C1)C=CC=C2 | C8H6S
reactant | t-BuLi | 9.7 mmoles, 5.7 mls | [Li]C(C)(C)C
reactant | 3,4,5-trimethoxybenzaldehyde | 8.9 mmoles, 1.8 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | α-(2-benzo[b]thienyl)-3,4,5-trimethoxybenzyl alcohol | S1C2=C(C=C1C(C1=CC(=C(C(=C1)OC)OC)OC)O)C=CC=C2 | C18H18O4S
